US04491586
N-[5-[3-(1-Piperidinylmethyl)phenoxy]pentyl]-N1 methyl-2-nitro-1,1-ethenediamine
A solution of 5-[3-(1-piperidinylmethyl)-phenoxy]-pentanamine (1.0 g) and 1-methylthio-1-methylamino-2-nitroethene (0.53 g) in water (20 ml) was stirred overnight at room temperature. The water was removed in vacuo and the resulting oil triturated with ethyl acetate to give a yellow solid which was dissolved in isopropanol:ethyl acetate (75:25). Addition of ether to the solution afforded the title compound (0.16 g) as a white crystalline solid, m.p. 112°-113° .

reactant | 5-[3-(1-piperidinylmethyl)-phenoxy]-pentanamine | 1.0 g | N1(CCCCC1)CC=1C=C(OCCCCCN)C=CC1 | C17H28N2O
reactant | 1-methylthio-1-methylamino-2-nitroethene | 0.53 g | CSC(=C[N+](=O)[O-])NC | C4H8N2O2S
reactant | ether | CCOCC | C4H10O
solvent | water | 20 ml | O | H2O
solvent | isopropanol ethyl acetate | C(C)(C)O.C(C)(=O)OCC
product | N-[5-[3-(1-Piperidinylmethyl)phenoxy]pentyl]-N1 methyl-2-nitro-1,1-ethenediamine | 0.16 g | N1(CCCCC1)CC=1C=C(OCCCCCN(C(=C[N+](=O)[O-])N)C)C=CC1 | C20H32N4O3
